US08278441B2
(4-(3-Bromophenyl)-3,6-dihydro-2H-pyran-3-yl)methyl carbamimidothioate methanesulfonate
A mixture of (4-(3-bromophenyl)-3,6-dihydro-2H-pyran-3-yl)methyl methanesulfonate (4.82 g, 11.7 mmol) and thiourea (1.78 g, 23.3 mmol) in isopropyl alcohol (100 mL) is heated to reflux for 24 h. The reaction is cooled and the solvent is removed under reduced vacuum to give a residue that is combined with acetonitrile (30 mL) and hexanes (10 mL). A solid crystallizes and the slurry is cooled to 0° C. The slurry is filtered using 3:1 ACN:hexanes as a rinse (25 mL) to give the title compound as the mesylate salt (3.45 g, 70%). ES/MS m/e (79Br/81Br) 327, 329 (M+1).

reactant | (4-(3-bromophenyl)-3,6-dihydro-2H-pyran-3-yl)methyl methanesulfonate | 11.7 mmol, 4.82 g | CS(=O)(=O)OCC1COCC=C1C1=CC(=CC=C1)Br | C13H15BrO4S
reactant | thiourea | 23.3 mmol, 1.78 g | NC(=S)N | CH4N2S
reactant | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | isopropyl alcohol | 100 mL | C(C)(C)O | C3H8O
product | (4-(3-Bromophenyl)-3,6-dihydro-2H-pyran-3-yl)methyl carbamimidothioate methanesulfonate | CS(=O)(=O)O.C(N)(=N)SCC1COCC=C1C1=CC(=CC=C1)Br | InChI=1S/C13H15BrN2OS.CH4O3S/c14-11-3-1-2-9(6-11)12-4-5-17-7-10(12)8-18-13(15)16;1-5(2,3)4/h1-4,6,10H,5,7-8H2,(H3,15,16);1H3,(H,2,3,4)
